US05670505
A mixture of (2R)-4-[3-(benzyloxycarbonyl)propyl]-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (0.15 g), 10% Pd charcoal (15 mg) and methanol (4.5 ml) was stirred for 3 hours under hydrogen atmosphere (1 atm). The catalyst was removed by filtration and the filtrate was concentrated. The residue was purified by column chromatography on a silica gel using chloroform-methanol (5:1) as eluent to give (2R)-4-(3-carboxypropyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (0.067 g) as a powder.

reactant | (2R)-4-[3-(benzyloxycarbonyl)propyl]-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.15 g | C(C1=CC=CC=C1)OC(=O)CCCN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C33H31F6N3O3
solvent | methanol | 4.5 ml | CO | CH4O
product | (2R)-4-(3-carboxypropyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.067 g | C(=O)(O)CCCN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C26H25F6N3O3
